US07312241B2
2,3-dihydrobenzo[1,4]dioxine-6-carbaldehyde (0.87 g, 5.28 mmol), 6-bromo-2,3-dihydrobenzo[1,4]dioxine (1.25 g, 5.81 mmol), and n-butyl lithium (2.33 ml, 5.81 mmol) were treated in the same manner as described above for the synthesis of (2,3-dihydrobenzo[1,4]dioxin-6-yl)-(3,5-dimethoxyphenyl)methanol. The crude material was purified via flash column chromatography (10% EtOAc in hexane gradient to 40% EtOAc in hexane in about 40 min.) to give bis-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-methanol as an oil (1.37 g, 86%): 1HNMR (CDCl3) 6.87-6.82 (m, 6H, Ar), 5.63 (d, J=3 Hz, 1H, CHOH), 4.22 (s, 8H, 2CH2CH2), 2.19 (d, J=3 Hz, 1H, OH). The product was carried over to the next step.

reactant | 2,3-dihydrobenzo[1,4]dioxine-6-carbaldehyde | 5.28 mmol, 0.87 g | O1CCOC2=C1C=CC(=C2)C=O | C9H8O3
reactant | 6-bromo-2,3-dihydrobenzo[1,4]dioxine | 5.81 mmol, 1.25 g | BrC1=CC2=C(OCCO2)C=C1 | C8H7BrO2
reactant | n-butyl lithium | 5.81 mmol, 2.33 ml | C(CCC)[Li]
reactant | (2,3-dihydrobenzo[1,4]dioxin-6-yl)-(3,5-dimethoxyphenyl)methanol | O1CCOC2=C1C=CC(=C2)C(O)C2=CC(=CC(=C2)OC)OC | C17H18O5
product | bis-(2,3-dihydro-benzo[1,4]dioxin-6-yl)-methanol | 1.37 g, 86% | O1CCOC2=C1C=CC(=C2)C(O)C2=CC1=C(OCCO1)C=C2 | C17H16O5
